US07910739B2
Synthesis of Intermediate Carbonic Acid 2-(1H-indol-3-yl)-ethyl Ester 4-nitro-phenyl Ester
To a solution of 2-(1H-indol-3-yl)-ethanol (1600 mg, 9.92 mmol), in N-methyl morpholine (2000 m g, 19.84 mmol), was added p-nitrophenyl chloroformate (4000 mg, 19.84 mmol), and the mixture was stirred for 24 hours at room temperature. Water was added and the mixture extracted with dichloromethane. Evaporation of the solvent gave a residue which was purified by silica gel column chromatography using a mixture of DCM/Hx (3:1) as eluent to produce 1034 mg (32%) of the title compound as a yellow solid.

reactant | 2-(1H-indol-3-yl)-ethanol | 9.92 mmol, 1600 mg | N1C=C(C2=CC=CC=C12)CCO | C10H11NO
reactant | N-methyl morpholine | 19.84 mmol | CN1CCOCC1 | C5H11NO
reactant | p-nitrophenyl chloroformate | 19.84 mmol, 4000 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | Water | O | H2O
product | Carbonic Acid 2-(1H-indol-3-yl)-ethyl Ester 4-nitro-phenyl Ester | 1034 mg, 32% | [N+](=O)([O-])C1=CC=C(C=C1)OC(OCCC1=CNC2=CC=CC=C12)=O | C17H14N2O5
